US06521643B1
To a suspension of 4-(4-methoxypyridin-2-yl)-2-nitrobenzaldehyde (413 mg), ethyleneglycol (0.266 ml) and magnesium sulfate (1.0 g) in toluene (10 ml) was added p-toluenesulfonic acid monohydrate (334 mg), and the resultant suspension was refluxed for 5 hours. After cooling, the mixture was poured into 0.1N aqueous sodium hydroxide and extracted with ethyl acetate. The organic layer was washed with brine, dried over potassium carbonate and evaporated under reduced pressure. The residue was triturated with diisopropyl ether. The solid was collected by filtration, washed with diisopropyl ether and dried under reduced pressure to give 2-(4-(4-methoxypyridin-2-yl)-2-nitrophenyl)-1,3-dioxolane (412 mg).

reactant | 4-(4-methoxypyridin-2-yl)-2-nitrobenzaldehyde | 413 mg | COC1=CC(=NC=C1)C1=CC(=C(C=O)C=C1)[N+](=O)[O-] | C13H10N2O4
reactant | magnesium sulfate | 1.0 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | p-toluenesulfonic acid monohydrate | 334 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium hydroxide | 0.1N | [OH-].[Na+]
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyleneglycol | 0.266 ml | C(CO)O | C2H6O2
product | 2-(4-(4-methoxypyridin-2-yl)-2-nitrophenyl)-1,3-dioxolane | 412 mg | COC1=CC(=NC=C1)C1=CC(=C(C=C1)C1OCCO1)[N+](=O)[O-] | C15H14N2O5
